US09290517B2
3,6-dihydro-2H-thiopyran-4-yl trifluoromethanesulfonate
To a stirred solution of diisopropylamine (4.86 ml, 3.45 g, 34.1 mmol) in anhydrous THF (48.0 ml) at 0° C. under nitrogen was added a solution of 2.5M n-butyllithium in hexanes (13.63 ml, 34.1 mmol), dropwise, over 5 minutes. The mixture was cooled to −78° and a solution of dihydro-2H-thiopyran-4(3H)-one (3.77 g, 32.4 mmol) in anhydrous THF (36.0 ml) was added dropwise over 10 minutes. After stirring at −78° C. for 15 minutes, 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide (12.75 g, 35.7 mmol) was added as a solid in 5 portions over 10 minutes. The dry-ice bath was removed and the mixture was allowed to stir at room temperature for 18 hours. The mixture was diluted with diethyl ether (200 ml), washed with aqueous 1N NaOH (150 ml), washed with brine (100 ml), then dried over sodium sulfate. The organic layer was concentrated under reduced pressure and dried under high vacuum for 18 hours to provide the title compound as a red oil. 1H NMR (400 MHz, CDCl3) δ: 5.95 (d, J=8.0 Hz, 1H), 3.26 (m, 2H), 2.82 (m, 2H), 2.57 (m, 2H).

reactant | diisopropylamine | 34.1 mmol, 4.86 ml, 3.45 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | dihydro-2H-thiopyran-4(3H)-one | 32.4 mmol, 3.77 g | S1CCC(CC1)=O | C5H8OS
reactant | 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide | 35.7 mmol, 12.75 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | THF | 48.0 ml | C1CCOC1 | C4H8O
solvent | THF | 36.0 ml | C1CCOC1 | C4H8O
product | 3,6-dihydro-2H-thiopyran-4-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1CCSCC1)(F)F | C6H7F3O3S2
